US09340506B2
Ethyl 1-[2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]thiazol-5-yl]pyrazole-4-carboxylate
The compound of example A5 was obtained by similar method described in example A1 using 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid (Preparation 4; 1.1 g, 3.23 mmol), ethyl 1-(2-aminothiazol-5-yl)pyrazole-4-carboxylate (Preparation 41; 0.924 g, 3.88 mmol), HOBt (0.524 g, 3.88 mmol), and EDCl (0.741 g, 3.88 mmol), N-methyl morpholine (0.815 g, 0.88 mmol) in DCM (20 mL) to provide the title compound (0.9 g).

reactant | 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid | 3.23 mmol, 1.1 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | ethyl 1-(2-aminothiazol-5-yl)pyrazole-4-carboxylate | 3.88 mmol, 0.924 g | NC=1SC(=CN1)N1N=CC(=C1)C(=O)OCC | C9H10N4O2S
reactant | HOBt | 3.88 mmol, 0.524 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 3.88 mmol, 0.741 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 0.88 mmol, 0.815 g | CN1CCOCC1 | C5H11NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 1-[2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]thiazol-5-yl]pyrazole-4-carboxylate | 0.9 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC(=CN1)N1N=CC(=C1)C(=O)OCC)OC1CCOCC1 | C25H28N4O7S2
